US07115611B2
A] 2-Methyl-2-{2-methyl-4-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester
To 0.150 g (0.629 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.180 g (0.629 mmol) of the above prepared (example 2A]) 3-chloromethyl-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine, dissolved in 5.4 ml of abs. acetonitrile, was added 0.226 g of Cs2CO3 (0.692 mmol). The reaction was stirred for 3.5 h at ambient temperature. Pouring onto crashed ice, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=85/15) yielded 0.248 g of pure title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.629 mmol, 0.150 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 3-chloromethyl-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C14H11ClF3N
reactant | Cs2CO3 | 0.692 mmol, 0.226 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Methyl-2-{2-methyl-4-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | 0.248 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)C)=O | C27H28F3NO4
